US04822801
A mixture of 2.96 g (10 mmole) of 8-amino-9,10-difluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido [1,2,3-de][1,4]benzoxazine-6-carboxylic acid, 2.1 g (15 mmole) of N-cyclopropyl-3-pyrrolidinemethanamine, 3.03 g (30 mmole) of triethylamine and 100 ml of N,N-dimethylformamide as heated at 100° C. for four hours. The solvent is removed in vacuo and the residue triturated with water. The aqueous suspension is adjusted to pH 7.2 with 1.0 M hydrochloric acid. The solid is removed by filtration, washed with water, and dried in vacuo to give 8-amino-9-fluoro-3-methyl-10-[(3-cyclopropylaminomethyl)-1-pyrrolidinyl]-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid.

reactant | 8-amino-9,10-difluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido [1,2,3-de][1,4]benzoxazine-6-carboxylic acid | 10 mmole, 2.96 g | NC1=C(C(=C2C=3N(C(CO2)C)C=C(C(C13)=O)C(=O)O)F)F | C13H10F2N2O4
reactant | N-cyclopropyl-3-pyrrolidinemethanamine | 15 mmole, 2.1 g | C1(CC1)NCC1CNCC1 | C8H16N2
reactant | triethylamine | 30 mmole, 3.03 g | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 8-amino-9-fluoro-3-methyl-10-[(3-cyclopropylaminomethyl)-1-pyrrolidinyl]-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid | NC1=C(C(=C2C=3N(C(CO2)C)C=C(C(C13)=O)C(=O)O)N1C(CCC1)CNC1CC1)F | C21H25FN4O4
